US09145380B2
a) 4-(2,3-Dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid ethyl ester
A solution of 4-(2,3-dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid (1.3 g, 3.05 mmol) in ethanol (20 mL) was stirred at RT and a few drops of thionyl chloride were added. The reaction mixture was heated at reflux for 7 h, cooled to RT and concentrated under reduced pressure. The residue was purified by flash column chromatography using ethyl acetate/hexane (1:1) as eluent to afford the title compound (1.4 g, 100%).

reactant | 4-(2,3-dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid | 3.05 mmol, 1.3 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C13H10Cl2N2O6S2
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | thionyl chloride | a few drops | S(=O)(Cl)Cl | Cl2OS
product | 4-(2,3-Dichloro-benzenesulfonylamino)-3-sulfamoyl-benzoic acid ethyl ester | 1.4 g, 100% | C(C)OC(C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)S(N)(=O)=O)=O | C15H14Cl2N2O6S2
